Circuit 3
* Mocanu Cristian-Lucian, 314CB
V1 1 0 AC 20 -45
V2 5 0 AC 60 45
R 4 5 10
L1 1 2 0.031831
L2 2 4 0.095493
C 2 0 0.000159155
*
.AC LIN 1 50 50
.PRINT AC I(L1) IP(L1) I(C) IP(C) I(R) IP(R)
.END

