Circuit 5
* Mocanu Cristian-Lucian, 314CB
V1 1 0 78
E3 4 3 2 0 0.5
I2 0 2 6
VCom 6 0 0
F5 4 5 VCom 0.5
R1 1 2 5
R3 2 3 4
R4 4 6 3
R5 5 0 2
*
.DC V1 78 78 1
.PRINT DC I(R1) I(R3) I(R4) I(R5) V(I2)
.OP
.END

